US06579993B2
1-(3-Dimethylamino-propyl)-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran-5-carbonitrile
A solution of freshly prepared 3-dimethylaminopropylmagnesium chloride (0.6 M in THF, 7.6 ml) was added to a cooled solution of 3-chloromethyl-4-(4-fluoro-benzoyl)-benzonitrile (0.5 g) in ethylene glycol dimethyl ether (4 ml) so that the temperature did not raise above −40° C. The mixture was stirred for 30 minutes at −15° C. and 100 minutes at room temperature before 0.5N hydrobromic acid was added to adjust the pH to 10. The phases were separated and the aqueous phase was extracted twice with toluene (25 ml). The combined organic phases were dried over sodium sulfate, filtered and dried in vacuo to give a viscous oil (0.44 g, 75%). Spectral and analytical data were in accordance with the literature.

reactant | 3-dimethylaminopropylmagnesium chloride | 0.6 M, 7.6 ml | CN(CCC[Mg]Cl)C
reactant | 3-chloromethyl-4-(4-fluoro-benzoyl)-benzonitrile | 0.5 g | ClCC=1C=C(C#N)C=CC1C(C1=CC=C(C=C1)F)=O | C15H9ClFNO
reactant | hydrobromic acid | 0.5N | Br | BrH
solvent | ethylene glycol dimethyl ether | 4 ml | COCCOC | C4H10O2
product | 1-(3-Dimethylamino-propyl)-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran-5-carbonitrile | 0.44 g, 75% | CN(CCCC1(OCC2=CC(=CC=C12)C#N)C1=CC=C(C=C1)F)C | C20H21FN2O
